US05470882
a) 2-(2-Nitro-4-trifluoromethylphenoxy)-4,5-dichlorobenzene
A mixture of 3,4-dichlorophenol (25 gram (hereinafter g), 0.153 mol), 4-chloro-3-nitrobenzo-trifluoride (52 g, 0.23 mol) and potassium carbonate (63 g, 0.459 mol) in dimethylformamide (450 mL)was stirred under argon at 120° C. for 24 h. The reaction mixture was filtered and the filtrate evaporated. The residue was dissolved in ethyl acetate, washed with water, brine, dried over anhydrous magnesium sulfate, filtered and evaporated. The residue was flash chromatographed (silica gel, methylene chloride/hexane), to give the title compound as a yellow oil.

reactant | 3,4-dichlorophenol | 0.153 mol, 25 gram | ClC=1C=C(C=CC1Cl)O | C6H4Cl2O
reactant | 4-chloro-3-nitrobenzo-trifluoride | 0.23 mol, 52 g | ClC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C7H3ClF3NO2
reactant | potassium carbonate | 0.459 mol, 63 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 450 mL | CN(C=O)C | C3H7NO
product | 2-(2-Nitro-4-trifluoromethylphenoxy)-4,5-dichlorobenzene | [N+](=O)([O-])C1=C(OC2=CC=C(C(=C2)Cl)Cl)C=CC(=C1)C(F)(F)F | C13H6Cl2F3NO3
